US04007276
2-Benzoylamino-5H-s-triazolo[5,1-a]isoindole
2-Amino-5H-s-triazolo[5,1-a]isoindole (3.45 g) and benzoic anhydride (5.43 g) in 45 ml of benzene are refluxed for 16 hours. After cooling to room temperature, the resulting solid precipitate is filtered and washed with aqueous sodium bicarbonate and water. Crystallization from ethanol affords 3.05 g (55%) of the title product which melts at 220-1°C.

reactant | 2-Amino-5H-s-triazolo[5,1-a]isoindole | 3.45 g | NC1=NN2C(C3=CC=CC=C3C2)=N1 | C9H8N4
reactant | benzoic anhydride | 5.43 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 2-Benzoylamino-5H-s-triazolo[5,1-a]isoindole | 3.05 g, 55% | C(C1=CC=CC=C1)(=O)NC1=NN2C(C3=CC=CC=C3C2)=N1 | C16H12N4O
